* Z:\mnt\design.r\spice\examples\2079.asc
V1 +V 0 9
R1 N002 N001 {5.1Meg+120K}
C1 N002 N001 100p
R3 N003 N002 2.64Meg
R4 N004 N003 2.64Meg
C2 N003 0 2000p
R5 OUT N007 1.35Meg
C3 N004 N007 1000p
C4 N007 N002 1000p
R2 N006 N005 27.6K
R6 N005 IN 27.6K
C5 N002 N005 .02µ
C6 N006 0 .01µ
V2 IN 0 4.5 AC 1
XU1 N006 N001 +V 0 N002 LT1078
XU2 N004 OUT +V 0 OUT LT1078
.ac oct 1000 1 10K
* Single Supply µPower, 2nd Order Low Pass Filter with 60Hz Notch
.lib LTC.lib
.backanno
.end
